US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-cyclopentylaminomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 111 with 7-(4-Aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and cyclopentanone as starting materials, 29.3 mg (12%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.75 (s, 2 H) 3.00 (m, 1 H), 2.80-2.70 (m, 4 H), 2.50-2.40 (m, 4H); ES-MS m/z 514.16 [M+H]+, HPLC RT (min) 2.62.

reactant | 7-(4-Aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NCC1=CC=C(C=C1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H23N7
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-cyclopentylaminomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 29.3 mg, 12% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CNC2CCCC2 | C32H31N7
